### PR TITLE
chore: adaptations for nightly-2024-06-06 

### PR DESCRIPTION
**Pull request by semorrison**

### CODE REVIEW

File: Batteries/Data/Fin/Lemmas.lean [hunk 1]
```diff
@@ -110,11 +111,10 @@ theorem foldr_loop (f : Fin (n+1) → α → α) (x) (h : m+1 ≤ n+1) :
 theorem foldr_zero (f : Fin 0 → α → α) (x) :
     foldr 0 f x = x := foldr_loop_zero ..
 
-@[simp] theorem foldr_zero (f : Fin 0 → α → α) (x) : foldr 0 f x = x := rfl
-
 theorem foldr_succ (f : Fin (n+1) → α → α) (x) :
     foldr (n+1) f x = f 0 (foldr n (fun i => f i.succ) x) := foldr_loop ..
 
+unseal Fin.foldr.loop in
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean:117]: No need for unsealing `Fin.foldr.loop`:
```
theorem foldr_succ_last (f : Fin (n+1) → α → α) (x) :
    foldr (n+1) f x = foldr n (f ·.castSucc) (f (last n) x) := by
  induction n generalizing x with
  | zero => simp [foldr_succ, Fin.last]
  | succ n ih => rw [foldr_succ, ih (f ·.succ), foldr_succ]; simp [succ_castSucc]
```

File: Batteries/Data/Fin/Lemmas.lean [hunk 2]
```diff
@@ -129,12 +129,14 @@ theorem foldr_eq_foldr_list (f : Fin n → α → α) (x) : foldr n f x = (list
 
 /-! ### foldl/foldr -/
 
+unseal Fin.foldl.loop Fin.foldr.loop in
 theorem foldl_rev (f : Fin n → α → α) (x) :
     foldl n (fun x i => f i.rev x) x = foldr n f x := by
   induction n generalizing x with
   | zero => rfl
   | succ n ih => rw [foldl_succ, foldr_succ_last, ← ih]; simp [rev_succ]
```
Comment (fgdorais) [inline Batteries/Data/Fin/Lemmas.lean:137]:
```suggestion
theorem foldl_rev (f : Fin n → α → α) (x) :
    foldl n (fun x i => f i.rev x) x = foldr n f x := by
  induction n generalizing x with
  | zero => simp
  | succ n ih => rw [foldl_succ, foldr_succ_last, ← ih]; simp [rev_succ]
```
Same for `foldr_rev`.

**Review by fgdorais — CHANGES_REQUESTED** [review]

File: Batteries/Data/Fin/Lemmas.lean [hunk 3]
```diff
@@ -110,11 +111,10 @@ theorem foldr_loop (f : Fin (n+1) → α → α) (x) (h : m+1 ≤ n+1) :
 theorem foldr_zero (f : Fin 0 → α → α) (x) :
```
[the remark this answers is not in the document]
Comment (fgdorais) [reply Batteries/Data/Fin/Lemmas.lean:111]: This simp got dropped and made later proofs harder.

File: Batteries/Data/Fin/Lemmas.lean (hunk 1 above)
Comment (fgdorais) [reply Batteries/Data/Fin/Lemmas.lean:117]: I'm not sure why the `zero` case simp needs `Fin.last`. I thought `Fin.val_last` would trigger and do the right thing.
